US07557103B2
C. 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(2-methyl-thieno[3,2-c]pyridin-3-yl)-imidazo[1,2-b]pyridazine
225 mg of 3-Bromo-2-methyl-thieno[3,2-c]pyridine (0.98 mmol) is placed into the vial with 2.14 ml of Reiki Zn, suspension in THF (1.50 mmol) and capped and heated at 100° C. for 2 h. The excess Zinc is allowed to settle down and the solution is transferred to the vial containing 200 mg of 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.58 mmol) and 41 mg of PdCl2(pddf) (0.05 mmol) in 3 ml of dry THF. The vial is capped with a Teflon cap and heated at 80° C. for 2 days. The reaction mixture is quenched by sat. NH4Cl and extracted by CH2Cl2, dried over Na2SO4 and evaporated. The crude product is applied onto a silica-gel chromatography column (Hexane:AcOEt:2 M NH3 in MeOH=20:4:1) to give 12.8 mg of the title compound. Yield 4%. Mass spectrum (m/e): 365 (M+1); 1H-NMR (CDCl3): 8.54 (m, 1H), 8.46 (m, 1H), 7.80 (m, 1H), 6.74 (s, 1H), 3.41 (m, 1H), 2.51 (s, 3H), 2.47 (s, 3H), 2.44 (s, 3H), 1.89 (m, 4H), 0.94 (m, 6H) ppm.

reactant | 3-Bromo-2-methyl-thieno[3,2-c]pyridine | 0.98 mmol, 225 mg | BrC1=C(SC2=C1C=NC=C2)C | C8H6BrNS
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.58 mmol, 200 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | Zn | [Zn] | Zn
solvent | THF | 1.50 mmol | C1CCOC1 | C4H8O
product | 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(2-methyl-thieno[3,2-c]pyridin-3-yl)-imidazo[1,2-b]pyridazine | 12.8 mg, Yield 4% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(SC1=C2C=NC=C1)C | C21H24N4S
